US05366957
A mixture of 2-chloro-4-(methylsulphenyl)-benzoyl chloride (1.0 g), triphenyl phosphine (2.47 g) and bis(triphenylphosphine)copper (I) borohydride (1.0 g) in acetone was stirred at 0° C. for 1 hour. Further bis (triphenylphosphine)copper (I) borohydride (1.5 g) was added and the mixture was stirred for 2 hours. The mixture was filtered and the filtrate was evaporated to dryness. The residue was dissolved in chloroform and treated with copper (I) bromide (2.1 g). The filtrate was evaporated to dryness and the residue was purified by chromotography eluted with a mixture of ethyl acetate and hexane to give 2-chloro-4-(methylsulphenyl)benzaldehyde (0.83 g) as an off-white solid, m.p. 76°-77° C.

reactant | 2-chloro-4-(methylsulphenyl)-benzoyl chloride | 1.0 g | ClC1=C(C(=O)Cl)C=CC(=C1)SC | C8H6Cl2OS
reactant | triphenyl phosphine | 2.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetone | CC(=O)C | C3H6O
catalyst | bis(triphenylphosphine)copper (I) borohydride | 1.0 g | [B-].C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cu+]
catalyst | bis (triphenylphosphine)copper (I) borohydride | 1.5 g | [B-].C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cu+]
product | 2-chloro-4-(methylsulphenyl)benzaldehyde | 0.83 g | ClC1=C(C=O)C=CC(=C1)SC | C8H7ClOS
